US07504427B2
3-(7-Amino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid methyl ester was prepared by the procedure of example 14 from 3-(4-difluoromethoxy-3-ethoxy-phenyl)-3-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester (9.1 g, 0.02 mol) and palladium on carbon under hydrogen pressure (50 psi). The product was used in the next step without further purification.

reactant | 3-(4-difluoromethoxy-3-ethoxy-phenyl)-3-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester | 0.02 mol, 9.1 g | COC(CC(N1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C21H20F2N2O7
catalyst | palladium on carbon | [Pd] | Pd
product | 3-(7-Amino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid methyl ester | COC(CC(C1=CC(=C(C=C1)OC(F)F)OCC)N1C(C2=C(C=CC=C2C1)N)=O)=O | C21H22F2N2O5
